US09238644B2
(e) 2-(2-((2,5-Dichloropyrimidin-4-yl)ethynyl)phenyl)-2-methylpropanamide (A37)
A mixture of 2-(2-ethynylphenyl)-2-methylpropanamide A36 (0.060 g, 0.32 mmol), 2,4,5-trichloropyrimidine (48 μL, 0.42 mmol) and Et3N (0.18 mL, 1.3 mmol) in 1,4-dioxane (5 mL) was bubbled with N2 for 10 minutes. CuI (0.001 g, 0.006 mmol) and PdCl2(PPh3)2 (0.002 g, 0.003 mmol) were added and the reaction mixture was stirred at room temperature under a N2 atmosphere for 5.5 hours. The volatiles were removed in vacuo and the residue was purified by column chromatography (Biotage Isolera, 12 g SiO2 cartridge, 10-100% EtOAc in petroleum benzine 40-60° C.) to give the title compound A37 as an off-white solid (0.067 g, 63%). LCMS-D: rt 3.33 min; m/z 334 [M+H]+.

reactant | 2-(2-ethynylphenyl)-2-methylpropanamide | C(#C)C1=C(C=CC=C1)C(C(=O)N)(C)C | C12H13NO
reactant | 2,4,5-trichloropyrimidine | 0.42 mmol, 48 μL | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | Et3N | 1.3 mmol, 0.18 mL | CCN(CC)CC | C6H15N
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 0.006 mmol, 0.001 g | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.003 mmol, 0.002 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(2-((2,5-Dichloropyrimidin-4-yl)ethynyl)phenyl)-2-methylpropanamide | ClC1=NC=C(C(=N1)C#CC1=C(C=CC=C1)C(C(=O)N)(C)C)Cl | C16H13Cl2N3O
